US03984465
Step D: (1-Oxo-2-ethyl-2-methyl-6,7-dichloro-5-indanyloxy)acetic Acid
A stirred mixture of 2-ethyl-2-methyl-5-hydroxy-6,7-dichloro-1-indanone (3.6 g., 0.014 mole), potassium carbonate (4.2 g.), ethyl bromoacetate (5.0 g.) in DMF (40 ml.) is warmed in an inert atmosphere at 55° C. for one hour, then treated with water (40 ml.) and 10N sodium hydroxide (6 ml.) and heated on a steam bath for 11/2 hours. The reaction mixture is poured into dilute aqueous hydrochloric acid, extracted with ether, washed with water and dried over magnesium sulfate. The ether is evaporated at reduced pressure affording the crude product which melts at 168° C. after recrystallization from nitromethane.

reactant | 2-ethyl-2-methyl-5-hydroxy-6,7-dichloro-1-indanone | 0.014 mole, 3.6 g | C(C)C1(C(C2=C(C(=C(C=C2C1)O)Cl)Cl)=O)C | C12H12Cl2O2
reactant | potassium carbonate | 4.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 5.0 g | BrCC(=O)OCC | C4H7BrO2
reactant | sodium hydroxide | 10N, 6 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | water | 40 ml | O | H2O
product | (1-Oxo-2-ethyl-2-methyl-6,7-dichloro-5-indanyloxy)acetic Acid | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(C)CC | C14H14Cl2O4
